US04061647
3-(2,4-Dichloro-5-sulfamoylphenyl)-3-hydroxy-2,3,5,6-tetrahydroimidazo[2,1-b]-thiazole-hydrobromide
was obtained in a manner analogous to the method described in Example 4 e from 3.5 g of 2-bromo-2',4'-dichloro-5'-sulfamoylacetophenone and 1 g of imidazolidine-2-thione. Mp. 225° C (decomposition).

reactant | 2-bromo-2',4'-dichloro-5'-sulfamoylacetophenone | 3.5 g | BrCC(=O)C1=C(C=C(C(=C1)S(N)(=O)=O)Cl)Cl | C8H6BrCl2NO3S
reactant | imidazolidine-2-thione | 1 g | N1C(NCC1)=S | C3H6N2S
product | 3-(2,4-Dichloro-5-sulfamoylphenyl)-3-hydroxy-2,3,5,6-tetrahydroimidazo[2,1-b]-thiazole-hydrobromide | Br.ClC1=C(C=C(C(=C1)Cl)S(N)(=O)=O)C1(N2C(SC1)=NCC2)O | InChI=1S/C11H11Cl2N3O3S2.BrH/c12-7-4-8(13)9(21(14,18)19)3-6(7)11(17)5-20-10-15-1-2-16(10)11;/h3-4,17H,1-2,5H2,(H2,14,18,19);1H
